US05405851
9-((4-Acetylanilino)methyl)-3-methylbenzo[f]quinazolin-1(2H)-one
9-Bromomethyl-3-methyl benzo[f]quinazolin-1(2H)-one (1 g, 3.3 mmole) and 4-aminoacetophenone (0.89 g, 6.6 mmole) (Aldrich) were dissolved in dimethylformamide (15 ml). The solution was stirred under nitrogen at 100° C. for 30 min. Sodium bicarbonate (0.55 g, 6.6 mmole) was added and stirring was continued for a further 30 min. Dimethylformamide was removed in vacuo, the residue triturated with water and the solid collected by filtration. The dried solid was subjected to chromatography on silica (methanol/methylene chloride (1:19)). Fractions containing product were concentrated until solid began to precipitate. The solution was chilled at 5° C. for 12 hours, then the solid filtered off and dried under high vacuum to yield the title compound (0.48 g, 41%). Mp>235° C. 1H NMR (DMSO-d6, 300 MHz) δ: 2.37 (s, 3H, CH3); 2.43 (s, 3H, CH3); 4.59 (d, J=6 Hz, 2H, CH2); 6.65 (d, J=9 Hz, 2H, Ar); 7.37 (t, J=6 Hz, 1H, ArNH); 7.59 (d, J=9 Hz, 1H, Ar); 7.61 (dd, J=8, 2 Hz, 1H, Ar); 7.69 (d, J=9 Hz, 2H, Ar); 8.00 (d, J=8 Hz, 1H, Ar); 8.21 (d, J=9 Hz, 1H, Ar); 9.85 (s, 1H, Ar); 12.52 (s, 1H, NH). Anal Calculated for C22H19N3O2.1/2 H2O: C,72.11; H,5.50; N,11.47. Found: C,72.26; H,5.46; N,11.35.

reactant | 9-Bromomethyl-3-methyl benzo[f]quinazolin-1(2H)-one | 3.3 mmole, 1 g | BrCC=1C=CC2=C(C=3C(NC(=NC3C=C2)C)=O)C1 | C14H11BrN2O
reactant | 4-aminoacetophenone | 6.6 mmole, 0.89 g | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | Sodium bicarbonate | 6.6 mmole, 0.55 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 9-((4-Acetylanilino)methyl)-3-methylbenzo[f]quinazolin-1(2H)-one | 0.48 g, 41% | C(C)(=O)C1=CC=C(NCC=2C=CC3=C(C=4C(NC(=NC4C=C3)C)=O)C2)C=C1 | C22H19N3O2
